US08304443B2
(R)-Tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate
(R)—N-(5-(2-(Benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl)methanesulfonamide (2.1515 g) which can be prepared according to the method described in Reference example 50, etc. was dissolved in dehydrated THF (20 mL) and added with triethylamine (0.884 mL; manufactured by Kokusan Chemical Co., Ltd.). The mixture was then cooled to 0° C. To the solution, Boc2O (1.14 mL; manufactured by Wako Pure Chemical Industries, Ltd.) and 4-N,N-dimethylaminopyridine (51.4 mg; manufactured by Wako Pure Chemical Industries, Ltd.) were added and stirred overnight while warming to room temperature. The reaction solution was concentrated under reduced pressure and the residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=88:12→67:33) to obtain the title compound (1.5265 g).

reactant | (R)—N-(5-(2-(Benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl)methanesulfonamide | 2.1515 g | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)Cl)CCO | C24H37ClN2O4SSi
reactant | triethylamine | 0.884 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 1.14 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-Tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate | 1.5265 g | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)S(=O)(=O)C)Cl)CCO | C29H45ClN2O6SSi
